US05120869
2,4-dimethoxybenzonitrile (2 g) was mixed with pyridinium chloride (5.67 g) and the reaction mixture was fused at 210° C. for 2 hours. After being left to stand at room temperature overnight, the mixture was diluted with water and extracted into diethyl ether. The ether extracts were washed with water, dried over magnesium sulphate and concentrated to give a pink solid which was washed with petrol and air dried to give 2,4-dihydroxybenzonitrile (1.17 g) (m pt 176°-178° C.).

reactant | 2,4-dimethoxybenzonitrile | 2 g | COC1=C(C#N)C=CC(=C1)OC | C9H9NO2
reactant | pyridinium chloride | 5.67 g | [Cl-].[NH+]1=CC=CC=C1
solvent | water | O | H2O
product | 2,4-dihydroxybenzonitrile | 1.17 g | OC1=C(C#N)C=CC(=C1)O | C7H5NO2
